US08217032B2
[2-(2,4-difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Dissolve [2-(2,4-difluoro-phenyl)-6-methoxynaphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (10.8 g, 21.5 mmol) in methylene chloride (200 mL). Add 2M HCl in ether (21.5 mL, 43 mmol) and concentrate in vacuo. Redissolve the foam in methylene chloride (200 mL) and cool to 0° C. under nitrogen. Slowly add boron tribromide (10.1 mL, 107 mmol) and stir at 0° C. for 30 minutes. Slowly pour into saturated aqueous sodium bicarbonate and extract with 20% WA in chloroform. Dry the organic layer with sodium sulfate, filter and concentrate in vacuo to yield 10.5 g (100%) of the title compound.

reactant | [2-(2,4-difluoro-phenyl)-6-methoxynaphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 21.5 mmol, 10.8 g | FC1=C(C=CC(=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H29F2NO3
reactant | HCl | 2M | Cl | ClH
reactant | ether | 43 mmol, 21.5 mL | CCOCC | C4H10O
reactant | boron tribromide | 107 mmol, 10.1 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | [2-(2,4-difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 10.5 g, 100% | FC1=C(C=CC(=C1)F)C1=C(C2=CC=C(C=C2C=C1)O)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
